US07977358B2
{5-[3-(4-Chloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone
In analogy to the procedure described in Example 31F], 1-chloro-4-iodobenzene and (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone (Example 31E]) gave the title compound in 74% yield light yellow powder. MS: 461.1 (MH+, 1 Cl).

reactant | 1-chloro-4-iodobenzene | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C)CC | C21H26N4O
product | {5-[3-(4-Chloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone | 74% yield | ClC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C1=C(C(=NN1)C(=O)N1CC(CC1)N(CC)CC)C | C27H29ClN4O
